Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ with history of GERD and aortic insufficiency 
who presents with chest pain that began this AM. Patinet reports 
that at about 430-5am, he awoke with pain in the creases of both 
shoulders. Stated that it felt steady in nature. Stated that it 
felt like a prior episode of pleurisy. Pt was constant. He took 
a baby aspirin at 7AM and proceeded to take a hot shower at 
730AM which alleviated the pain, which relieved the pain 
completely. He then took a nap and at about 10AM developed 
midchest substernal chest pain which was gain "steady" in nature 
and was constant. Non radiating and was pleuritic. No nausea or 
SOB. No fevers or chills or URI symptoms. No cough. No recent 
chest trauma. Patient was constant and worsed when walking. He 
called his PCP given the symptoms who referred patient to ED for 
evaluation.  
Of note patient states that in the past he has been very active 
and currently walks 3 miles about 4 days a week. In fact, on 
___ he walked 3.5miles at moderate pace and did not 
experience any chest pain. He has multiple stairs at home (>20) 
and is able to care moderate loads (at least 2 bags of 
groceries) without difficult or experience chest pain.  
In the ED, initial VS were: 98.2 84 162/77 18 100% RA. 
Evaluation was significant for WBC 12.5 and Trop of <0.01. No 
CK/MB was drawn. Initial showed ST elevations in V1-V3 which per 
ED signout were consistent with prior EKGs. Plan was for 
observation with stress test however given holiday, patient was 
admitted for further management. While awaiting a bed, patient 
repeat episode of chest pain. Repeat EKG showed TWI with ?STD in 
I and aVL. Cardiology was consulted who did not feel these 
changes were consistent with ischemia. Patient received Aspirin 
325mg, SLNG x2 and morphine. VS prior to transfer to 98.8 89 
119/52 20 95%.  
 
On arrival to the floor, patient is chest pain free and feels 
well.  
 
REVIEW OF SYSTEMS:  
(+)  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
AORTIC INSUFFICIENCY  
GASTROESOPHAGEAL REFLUX  
HEMORRHOIDS  
NOCTURIA  
RECTAL FISSURE  
OSTEOARTHRITIS  
H/O KIDNEY STONES  
HEMORRHOIDECTOMY  
MENISCUS REPAIR  
 
Social History:
___
Family History:
Mother: ___, ___. HTN  
Father: ___ ___ANCER  
Brother: Living, PROSTATE CANCER  
Brother: Living: CAD, CABG
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 118/86 86 20 95% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait

DISCHARGE PHYSICAL EXAM:
VS: 98.0  139/60  64  20  96%RA
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, II/VI mid-peaking systolic 
murmur at ___ without radiation to carotids, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact
 
Pertinent Results:
ADMISSION LABS
___ 04:20PM BLOOD WBC-12.5*# RBC-5.29# Hgb-15.4# Hct-47.4# 
MCV-90 MCH-29.0 MCHC-32.4 RDW-15.2 Plt ___
___ 04:20PM BLOOD Neuts-88.4* Lymphs-5.6* Monos-5.6 Eos-0.2 
Baso-0.2
___ 04:20PM BLOOD Glucose-109* UreaN-13 Creat-1.0 Na-137 
K-3.9 Cl-101 HCO3-20* AnGap-20
___ 07:20AM BLOOD Calcium-8.2* Phos-2.5* Mg-2.3
___ 04:20PM BLOOD D-Dimer-400

RELEVANT LABS
___ 04:20PM BLOOD CK(CPK)-111
___ 04:20PM BLOOD CK-MB-4
___ 04:20PM BLOOD cTropnT-<0.01
___ 11:02PM BLOOD CK(CPK)-56
___ 11:02PM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:20AM BLOOD CK(CPK)-42*
___ 07:20AM BLOOD CK-MB-2 cTropnT-<0.01

DISCHARGE LABS
___ 07:20AM BLOOD WBC-9.0 RBC-4.32* Hgb-12.5* Hct-38.5* 
MCV-89 MCH-29.0 MCHC-32.5 RDW-15.6* Plt ___
___ 07:20AM BLOOD Glucose-113* UreaN-13 Creat-1.1 Na-138 
K-3.8 Cl-103 HCO3-28 AnGap-11

STUDIES
___ CXR PA/lat: Heart size is normal.  Mediastinal and 
hilar contours are unremarkable.  The pulmonary vascularity is 
normal.  Linear and patchy opacities in the left lung base most 
likely reflect atelectasis though pneumonia is not completely 
excluded.  Right lung is clear.  No pleural effusion or 
pneumothorax is present.  No acute osseous abnormalities are 
visualized.  
IMPRESSION: Left basilar linear and patchy opacities likely 
reflect atelectasis though infection cannot be completely 
excluded. 
 
Brief Hospital Course:
MR. ___ is a ___ year old gentleman with history of GERD and 
aortic insufficiency, and family history of CAD, admitted with 
chest pain that resolved on arrival.  
 
ACTIVE ISSUES:
# Chest pain: Pleuritic and constant nature made chest pain very 
atypical for cardiac process.  No infectious or pulmonary 
symptoms that made it concerning for pneumonia or bronchitis.  
It was of unclear etiology, but sounded likely idiopathic 
pleurisy or costochondritis from the history.  It was resolved 
by the time of admission.  EKGs showed LVH with associated 
repolarization changes (1-___levations in 
V1-V3), without any changes from prior.  Cardiac enzymes were 
trended, and all within normal range.  Telemetry showed heart 
rate in the ___ without any events.  Patient felt fine at the 
time of discharge.  Given low probability of cardiac ischemia, 
would recommend stress test as outpatient to evaluate for 
exertional angina.  Patient understands implications for this 
test, and will call to schedule.

# Leukocytosis: Transiently elevated to 12.5 on admission, 
likely related to some inflammation.  This resolved.

CHRONIC ISSUES:
# GERD: Patient takes Prilosec sparingly at home.  Symptoms of 
his GERD are different from current presentation.  Will continue 
his home Prilosec and Tums as needed.  

TRANSITIONAL ISSUES:
# Patient to schedule exercise stress test to evaluate for 
exertional ischemia.
# Patient will call to schedule PCP ___ within one week of 
discharge. 
# CODE: full code 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid Dose is Unknown  PO Frequency is Unknown 
2. Aspirin 81 mg PO DAILY 
3. Glucosamine Sulf-Chondroitin *NF* (glucosamine ___ 
2KCl-chondroit) Dose is Unknown   Oral unknown 
4. Ferrous Sulfate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Ascorbic Acid ___ mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Glucosamine Sulf-Chondroitin *NF* (glucosamine ___ 
2KCl-chondroit) 0   ORAL Frequency is Unknown 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Pleurisy

SECONDARY DIAGNOSES:
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care here on ___ 
___!  You were admitted with chest pain, 
which is unclear etiology but may be from some inflammation of 
her ribs or the lining of your lungs (called "pleurisy").  Your 
pain resolved on its own.  All of your blood tests and heart 
tracings were reassuring.  Additionally, your chest x-ray did 
not show signs of infection.

Tomorrow, you should call your primary care physician, ___. 
___ at ___, to have an exercise stress test 
scheduled for further investigation into your pain.  The phone 
number for scheduling your stress test is ___.

You should continue all of your home medications.  For acid 
reflux, you can take Tums or Prilosec as needed.

Wishing you all the best! HAPPY HOLIDAYS!
 
Followup Instructions:
___